US05760021
II. Synthesis of Ethyl 4-(N,N-Dimethylamino)-2-oxobutanoate
To a stirred solution of 12.8 g (0.10 mole) of ethyl 2-oxo-3-butenoate in 200 ml of anhydrous ether under a nitrogen atmosphere (in an ice bath) is added over about 1 hr. a cold solution of 4.5 g (0.10 mole) of dimethylamine in 200 ml of anhydrous ether. The reaction is stirred at 0° for several hours, and then at 20°-25° for one day. The solvent is removed, and the resulting crude product is purified by flash chromatography on silica gel using chloroform/methanol as eluant.

reactant | ethyl 2-oxo-3-butenoate | 0.10 mole, 12.8 g | O=C(C(=O)OCC)C=C | C6H8O3
reactant | dimethylamine | 0.10 mole, 4.5 g | CNC | C2H7N
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | Ethyl 4-(N,N-Dimethylamino)-2-oxobutanoate | CN(C)CCC(C(=O)OCC)=O | C8H15NO3
